US04948804
5-isopropoxy pyrrolidin-2-one
28.4 g of succinimide in 1200 cm3 of isopropanol is cooled to -10° C., 32.8 g of hydride of boron and sodium is added, and after agitating for 4 hours at 0°/-10° C., there is added a 2N solution of hydrochloric acid in isopropanol, adjusting the pH to 2-3. This is maintained for 2 hours at 0° C., then neutralised with a solution of potassium hydroxide in isopropanol. The solvent is evaporated under reduced pressure, the residue is taken up with chloroform, concentrated to dryness under reduced pressure, and 20.5 g of the expected product is obtained. m.p. 68°-71° C.

reactant | succinimide | 28.4 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | hydride | 32.8 g | [H-]
reactant | boron | [B] | B
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
reactant | isopropanol | 1200 cm3 | C(C)(C)O | C3H8O
product | 5-isopropoxy pyrrolidin-2-one | 20.5 g | C(C)(C)OC1CCC(N1)=O | C7H13NO2
